US05438052
2-Azidomethyl-7-chloro-5-methyl[1.2.4]triazolo-[1,5-a]pyrimidine (2.98 g) are suspended in 70 ml of ethanol, treated with 1.1 g of thiourea and heated at reflux for 45 minutes. The reaction mixture is stirred in an ice bath for 30 minutes. The resulting precipitate is filtered off under suction and dried in a vacuum at 40° C. There are obtained 2.76 g of 2-azidomethyl-5methyl[1.2.4]triazolo[1,5-a]pyrimidine-7-thiol as yellow crystals of melting point 214°-215° C.

reactant | 2-Azidomethyl-7-chloro-5-methyl[1.2.4]triazolo-[1,5-a]pyrimidine | 2.98 g | N(=[N+]=[N-])CC1=NN2C(N=C(C=C2Cl)C)=N1 | C7H6ClN7
reactant | thiourea | 1.1 g | NC(=S)N | CH4N2S
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-azidomethyl-5methyl[1.2.4]triazolo[1,5-a]pyrimidine-7-thiol | 2.76 g | N(=[N+]=[N-])CC1=NN2C(N=C(C=C2S)C)=N1 | C7H7N7S
